US06117888
Step B: 4-(2-Chloroethylthio)-1-ethyloxycarbonylmethyl-6-methyl-3-nitro-2-pyridinone
Phosphorus pentachloride (229 mg, 1.1 mmol) was added to a stirred solution of 1-ethyloxycarbonylmethyl-4-(2-hydroxyethylthio)-6-methyl-3-nitro-2-pyridinone (316 mg, 1.0 mmol) in methylene chloride (5 mL). After 15 min the reaction was diluted with methylene chloride and was washed with water, dried (Na2SO4) and evaporated to give the title compound as a yellow crystalline solid:

reactant | Phosphorus pentachloride | 1.1 mmol, 229 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-ethyloxycarbonylmethyl-4-(2-hydroxyethylthio)-6-methyl-3-nitro-2-pyridinone | 1.0 mmol, 316 mg | C(C)OC(=O)CN1C(C(=C(C=C1C)SCCO)[N+](=O)[O-])=O | C12H16N2O6S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Chloroethylthio)-1-ethyloxycarbonylmethyl-6-methyl-3-nitro-2-pyridinone | ClCCSC1=C(C(N(C(=C1)C)CC(=O)OCC)=O)[N+](=O)[O-] | C12H15ClN2O5S
